US05015260
Into 100 ml of methanol was added 2.0 g (13.1 mmol) of 2-methyl-4-methoxy-5-(2-hydroxypropyl)aminophenyl mesylate. After conducting nitrogen substitution at room temperature, 40 ml of 7.5N aqueous solution of sodium hydroxide was added to the mixture and the resulting mixture was heated under reflux for 7 hours with blowing nitrogen gas thereinto. After allowing to cool, the mixture was neutralized with acetic acid and poured into 400 ml of water. The resulting solution was extracted with 400 ml of ethyl acetate. The organic layer was washed with a saturated aqueous solution of common salt and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain an oily matter. The oily matter was crystallized from the solvent mixture of hexane/ethyl acetate (1:1 by volume) to give 2.30 g (10.9 mmol) of 2-methyl-4-methoxy-5-(2-hydroxypropyl)aminophenol. The yield was 49%.

reactant | methanol | 100 ml | CO | CH4O
reactant | 2-methyl-4-methoxy-5-(2-hydroxypropyl)aminophenyl mesylate | 13.1 mmol, 2.0 g | S(C)(=O)(=O)OC1=C(C=C(C(=C1)NCC(C)O)OC)C | C12H19NO5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 400 ml | O | H2O
product | 2-methyl-4-methoxy-5-(2-hydroxypropyl)aminophenol | 10.9 mmol, 2.30 g, yield was 49% | CC1=C(C=C(C(=C1)OC)NCC(C)O)O | C11H17NO3
